US08389524B2
(1R)-1-({4-[(2,3-Dihydro-1-benzofuran-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A suspension of (1R)-1-({4-[(1,2,3-benzothiadiazol-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride (for a preparation see Example 5A(j)) (60 mg, 0.161 mmol) in chloroform (2 ml) and methanol (0.100 ml) at rt under nitrogen was treated with triethylamine (0.067 ml, 0.482 mmol) and stirred at rt for 15 min. The solution was then treated with 2,3-dihydro-1-benzofuran-5-carbaldehyde (commercially available) (0.020 ml, 0.161 mmol) and stirred for a further 30 min. The solution was then treated with sodium triacetoxyborohydride (102 mg, 0.482 mmol) and stirred at rt for 45 min. This was then treated with saturated aqueous NaHCO3 (10 ml) and extracted with 20% methanol/DCM (3×25 ml). The combined organic fractions were dried (NaSO4), filtered, evaporated and chromatographed (5-25% methanol/DCM) to give the free base of the title compound (24 mg, 34.5%) as a white solid.

reactant | (1R)-1-({4-[(1,2,3-benzothiadiazol-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | Cl.Cl.S1N=NC2=C1C=CC(=C2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O
reactant | triethylamine | 0.482 mmol, 0.067 ml | C(C)N(CC)CC | C6H15N
reactant | 2,3-dihydro-1-benzofuran-5-carbaldehyde | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
reactant | sodium triacetoxyborohydride | 0.482 mmol, 102 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.100 ml | CO | CH4O
product | (1R)-1-({4-[(2,3-Dihydro-1-benzofuran-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 24 mg, 34.5% | Cl.O1CCC2=C1C=CC(=C2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O | InChI=1S/C25H28N4O3.ClH/c30-23-5-2-18-3-6-24(31)29-21(16-28(23)25(18)29)15-27-10-7-20(8-11-27)26-14-17-1-4-22-19(13-17)9-12-32-22;/h1-6,13,20-21,26H,7-12,14-16H2;1H/t21-;/m1./s1
